US09061994B1
Synthesis of trans-3-(2-isopropyl-5-methoxyindol-3-yl)-1-(4-pyridinyl)-2-propen-1-one (107c)
2-Isopropyl-5-methoxyindole-3-carboxaldehyde (105 mg, 0.48 mmol) was dissolved in anhydrous methanol (5 mL) under an atmosphere of Argon (g). 4-Acetylpyridine (87.2 mg, 0.72 mmol) and piperidine (61.3 mg, 0.72 mmol) were added to the reaction mixture and the solution was refluxed for 24 hours. A precipitate slowly formed which was collected, washed with cold MeOH (30 mL) and dried overnight in an oil driven vacuum pump equipped to a vacuum desiccator heated to 40° C. to yield a bright yellow powder (102 mg, 66%): TLC Rf 0.38 in 4:1 ethyl acetate/hexanes. Melting point=252-253° C. 1H NMR (600 MHz, d6-DMSO) δ 11.78 (s, 1H), 8.82-8.81 (m, 2H), 8.15-8.13 (d, 1H, J=15.24 Hz), 7.94 (m, 2H), 7.45 (d, 1H, J=2.28 Hz), 7.41-7.38 (d, 1H, J=15.18 Hz), 7.36-7.34 (d, 1H, J=8.7 Hz), 6.88-6.87 (dd, 1H, J1=2.34 Hz, J2=8.64 Hz), 3.87 (s, 3H), 3.54-3.49 (m, 1H), 1.35-1.34 (d, 6H, J=6.96 Hz); 13C NMR (150 MHz, d6-DMSO) δ 188.6, 155.7, 155.4, 151.1, 145.6, 139.6, 131.8, 126.6, 121.9, 113.5, 113.0, 111.6, 105.0, 104.4, 56.1, 26.0, 22.8. Elemental analysis calculated for C20H20N2O2: C, 74.98; H, 6.29; N, 8.74. Found: C, 74.78; H, 6.42; N, 8.68.

reactant | 2-Isopropyl-5-methoxyindole-3-carboxaldehyde | 0.48 mmol, 105 mg | C(C)(C)C=1NC2=CC=C(C=C2C1C=O)OC | C13H15NO2
reactant | 4-Acetylpyridine | 0.72 mmol, 87.2 mg | C(C)(=O)C1=CC=NC=C1 | C7H7NO
reactant | piperidine | 0.72 mmol, 61.3 mg | N1CCCCC1 | C5H11N
solvent | methanol | 5 mL | CO | CH4O
product | trans-3-(2-isopropyl-5-methoxyindol-3-yl)-1-(4-pyridinyl)-2-propen-1-one | 102 mg, 66% | C(C)(C)C=1NC2=CC=C(C=C2C1/C=C/C(=O)C1=CC=NC=C1)OC | C20H20N2O2
